US04267326
In 100 ml of dimethylacetamide were dissolved 19.51 g (0.15 mol) of 5-fluorouracil and 75.90 g (0.75 mol) of triethylamine. To this mixture was added dropwise at room temperature 41.05 g (0.165 mol) of chloromethyl laurate and the mixture was reacted together for 20 hours. After completion of the reaction, the triethylamine and dimethylacetamide were removed by distillation and the residue was poured into 400 ml of water. The mixture was stirred, filtered and washed with water whereby crystals were obtained which were then recrystallized from 200 ml of ethanol to obtain 38.06 g of 1-lauroyloxymethyl-5-fluorouracil having a melting point of 113.7~114.2° C. in a yield of 74.2%.

reactant | 5-fluorouracil | 0.15 mol, 19.51 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | triethylamine | 0.75 mol, 75.90 g | C(C)N(CC)CC | C6H15N
reactant | chloromethyl laurate | 0.165 mol, 41.05 g | C(CCCCCCCCCCC)(=O)OCCl | C13H25ClO2
solvent | dimethylacetamide | 100 ml | CC(=O)N(C)C | C4H9NO
product | 1-lauroyloxymethyl-5-fluorouracil | 38.06 g, yield of 74.2% | C(CCCCCCCCCCC)(=O)OCN1C(=O)NC(=O)C(=C1)F | C17H27FN2O4
